US07365225B2
2-hydroxy-5-[{[2-(4-{[(4-pentylbenzyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}(phenoxyacetyl)amino]benzoic acid
The title compound was prepared following the procedure A using 4-pentylbenzylamine, 4-[4-(chloromethyl)-1,3 -thiazol-2-yl]benzoyl chloride, phenoxyacetyl chloride and 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one. M+(ESI): 664.2

reactant | 4-pentylbenzylamine | C(CCCC)C1=CC=C(CN)C=C1 | C12H19N
reactant | 4-[4-(chloromethyl)-1,3 -thiazol-2-yl]benzoyl chloride | ClCC=1N=C(SC1)C1=CC=C(C(=O)Cl)C=C1 | C11H7Cl2NOS
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one | NC1=CC2=C(OC(OC2=O)(C)C)C=C1 | C10H11NO3
product | 2-hydroxy-5-[{[2-(4-{[(4-pentylbenzyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}(phenoxyacetyl)amino]benzoic acid | OC1=C(C(=O)O)C=C(C=C1)N(C(COC1=CC=CC=C1)=O)CC=1N=C(SC1)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)CCCCC | C38H37N3O6S
